US05395941
Preparation of 2-tetrahydropyranyl (4S)-5-(2-acetamidoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate
To a solution of 36 mg of (4S)-5-(2-acetamidoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid in 0.5 ml of tetrahydrofuran were added 7.7 mg of p-toluenesulfonic acid, and then 0.24 ml of 3,4-dihydro-2-H-pyrane. The mixture was stirred at room temperature for 6 hours. The reaction mixture was diluted with 5 ml of ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and with water, and dried over anhydrous Glauber's salt (sodium sulfate), followed by distilling off the solvent under reduced pressure. The residue was purified using preparative TLC to obtain 18 mg of the objective compound.

reactant | (4S)-5-(2-acetamidoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid | 36 mg | C(C)(=O)NCCOC(=O)C=1[C@H](C(=C(NC1C)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C19H21N3O7
reactant | p-toluenesulfonic acid | 7.7 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2-H-pyrane | 0.24 ml | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-tetrahydropyranyl (4S)-5-(2-acetamidoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate | 18 mg | C(C)(=O)NCCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)OC1OCCCC1)C1=CC(=CC=C1)[N+](=O)[O-] | C24H29N3O8
